US08633189B2
2-Bromo-4-tert-butylphenyl methyl carbonate (5.0 g, 17.4 mmol) was added portion-wise to H2SO4 (9.3 mL, 174.1 mmol) to generate a colorless homogeneous solution. This solution was then cooled to 0° C. and treated with KNO3 (2.1 g, 20.9 mmol) portion-wise maintaining the internal temperature below 5° C. The reaction was stirred for 2 h and then poured on ice water. The aqueous layer was extracted with dichloromethane (3×10 mL). The combined organic extracts was dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (10% ethyl acetate/hexane) provided 2-bromo-4-tert-butyl-5-nitrophenyl methyl carbonate (4.4 g, 76% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 7.97 (s, 1H), 7.92 (s, 1H), 3.90 (s, 3H), 1.34 (d, J=5.4 Hz, 9H).

reactant | 2-Bromo-4-tert-butylphenyl methyl carbonate | 17.4 mmol, 5.0 g | C(OC1=C(C=C(C=C1)C(C)(C)C)Br)(OC)=O | C12H15BrO3
reactant | H2SO4 | 174.1 mmol, 9.3 mL | OS(=O)(=O)O | H2O4S
reactant | KNO3 | 20.9 mmol, 2.1 g | [N+](=O)([O-])[O-].[K+]
product | 2-bromo-4-tert-butyl-5-nitrophenyl methyl carbonate | 4.4 g, 76% yield | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])C(C)(C)C)Br)(OC)=O | C12H14BrNO5
